US04353898
2β-Ethoxy-11α-(2,2,2-trichloroethoxycarbonylamino)-3α-(2,2,2-trichloroethoxycarbonyloxy)-5α-pregnan-20-one
2,2,2-Trichloroethyl chloroformate (1 ml) was added to a stirred solution of 11α-amino-2β-ethoxy-3α-hydroxy-5α-pregnan-20-one (2 g) in pyridine (20 ml). After 16 hours complete reaction was not obtained. A further quantity of 2,2,2-trichloroethyl chloroformate (1 ml) was added and after 30 minutes the mixture was diluted with water (30 ml). The mixture was extracted with ether (x 2) and the extracts were washed with 2 M-HCl (x 4) and water (x 2) and dried. Evaporation of the solution left a yellow froth which was purified by column chromatography on silica eluted with ethyl acetate:petrol (1:3) to give a solid (2.5 g). A portion was crystallised from ether/petrol to give the title compound m.p. 147°-149° C., [α]D +48°.

reactant | 2,2,2-Trichloroethyl chloroformate | 1 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | 11α-amino-2β-ethoxy-3α-hydroxy-5α-pregnan-20-one | 2 g | N[C@H]1[C@@H]2[C@]3(C[C@@H]([C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)O)OCC)C | C23H39NO3
reactant | 2,2,2-trichloroethyl chloroformate | 1 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 30 ml | O | H2O
product | 2β-Ethoxy-11α-(2,2,2-trichloroethoxycarbonylamino)-3α-(2,2,2-trichloroethoxycarbonyloxy)-5α-pregnan-20-one | 2.5 g | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@H]([C@@H]3[C@]2(C1)C)NC(=O)OCC(Cl)(Cl)Cl)C)OC(=O)OCC(Cl)(Cl)Cl | C29H41Cl6NO7
